US06265434B1
Step A: Ethyl oxo(2-pyridyl)acetate
A solution of n-butyllithium (100 mL, 1.6 M, 160 mmol) in hexanes was added over 2 min. to a stirred solution of 2-bromopyridine (15.0 mL, 24.9 g, 157 mmol) in 500 mL of ether cooled in a dry ice/i-PrOH bath, causing a temporary rise in temperature to 47° C. After 25 min., the solution was transferred rapidly to a stirred 0° C. solution of diethyl oxalate (75 mL, 81 g, 550 mmol) in 1000 mL of ether. After 2 h at 0° C., the mixture was washed with saturated aq. NaHCO3 (900 ml), water (900 mL), and saturated aq. NaCl (450 mL). The organic layer was dried (MgSO4), filtered, and evaporated. Distillation gave the title compound as 11.68 g of yellow liquid, B.p. 96-108° C. (0.3 mm Hg pressure). For the title compound: 1H NMR (500 MHz, CDCl3) δ 8.78 (d, J=5, 1H), 8.13 (d, J=8, 1H), 7.93 (td, J=8, 2, 1H), 7.56 (ddd, J=8, 5, 1, 11H), 4.51 (q, J=7,22H), 1.44 (t, J=7, 3H).

reactant | n-butyllithium | 160 mmol, 1.6 M, 100 mL | C(CCC)[Li]
reactant | 2-bromopyridine | 157 mmol, 15.0 mL, 24.9 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | diethyl oxalate | 550 mmol, 75 mL, 81 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | ether | 1000 mL | CCOCC | C4H10O
product | Ethyl oxo(2-pyridyl)acetate | O=C(C(=O)OCC)C1=NC=CC=C1 | C9H9NO3
